US04254127
A mixture of 5.5 parts of 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 6 parts of 1-(3-methylphenyl)-2-(4-piperidinyl)ethanone hydrobromide, 8.5 parts of sodium carbonate and 120 parts of 4-methyl-2-pentanone is stirred and refluxed overnight using a water-separator. The reaction mixture is cooled, water is added and thelayers are separated. The 4-methyl-2-pentanone-phase is dried, filtered and evaporated, yielding 8.6 parts (100%) of 1,3-dihydro-1-(1-methylethenyl)-3-[3-[4-[2-(3-methylphenyl)-2-oxoethyl]-1-piperidinyl]propyl]-2H-benzimidazol-2-one as an oily residue.

reactant | 1-(3-chloropropyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C13H15ClN2O
reactant | 1-(3-methylphenyl)-2-(4-piperidinyl)ethanone hydrobromide | Br.CC=1C=C(C=CC1)C(CC1CCNCC1)=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 1,3-dihydro-1-(1-methylethenyl)-3-[3-[4-[2-(3-methylphenyl)-2-oxoethyl]-1-piperidinyl]propyl]-2H-benzimidazol-2-one | 100% | CC(=C)N1C(N(C2=C1C=CC=C2)CCCN2CCC(CC2)CC(=O)C2=CC(=CC=C2)C)=O | C27H33N3O2
